US08871760B2
A mixture of phosphorus pentasulfide (5.12 g, 11.5 mmol) and sodium carbonate (1.22 g, 11.5 mmol) in THF (30 mL) was stirred at room temperature. A solution of 5-(4-fluoro-phenyl)-thiomorpholin-3-one (2.0 g, 9.5 mmol) in THF (25 mL) was slowly added, and the mixture was stirred at room temperature for 90 minutes. The mixture was diluted with 10% aqueous Na3PO4 solution (40 mL), and stirred at room temperature for five minutes. The mixture was extracted with a 1:4 mixture of ethyl acetate and diethyl ether, and the organic phase was separated, dried over MgSO4, filtered and concentrated under reduced pressure. Elution of the residue through silica (15-20% ethyl acetate/hexanes) gave 1.36 g of 5-(4-fluoro-phenyl)-thiomorpholine-3-thione, MP=107-108° C.

reactant | phosphorus pentasulfide | 11.5 mmol, 5.12 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | sodium carbonate | 11.5 mmol, 1.22 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 5-(4-fluoro-phenyl)-thiomorpholin-3-one | 9.5 mmol, 2.0 g | FC1=CC=C(C=C1)C1CSCC(N1)=O | C10H10FNOS
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 5-(4-fluoro-phenyl)-thiomorpholine-3-thione | 1.36 g | FC1=CC=C(C=C1)C1CSCC(N1)=S | C10H10FNS2
